US06936612B2
8-Cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.40 g, 1.37 mmol) and 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.497 g, 1.78 mmol) were heated to reflux in toluene (4 mL) for 16 hours. The reaction mixture was cooled to room temperature and the precipitate that formed was collected by filtration and washed on the funnel with toluene (3×10 mL) to give 4-[6-(8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester as a dark brown-gray solid (0.100 g, 16.2%). 1H NMR δ (400 MHz, DMSO-d6) 9.92 (s, 1H), 8.78 (s, 1H), 8.02 (d, J=2.9 Hz, 1H), 7.87 (d, J=9.3 Hz, 1H), 7.50 (dd, J=2.9, 9.0 Hz, 1H), 6.18 (s, 1H), 5.77 (m, 1H), 3.44 (m, 4H), 3.07 (m, 4H), 2.39 (s, 3H), 2.20 (m, 2H), 1.85 (m, 2H), 1.71 (m, 2H), 1.55 (m, 2H), 1.39 (s, 9H).

reactant | 8-Cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.37 mmol, 0.40 g | C1(CCCC1)N1C(C=C(C2=C1N=C(N=C2)S(=O)C)C)=O | C14H17N3O2S
reactant | 4-(6-amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.78 mmol, 0.497 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)N | C14H22N4O2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[6-(8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.100 g, 16.2% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C=C2C)=O)C2CCCC2 | C27H35N7O3
